R1 ( net22 net164)  R=7.4E1
T2 ( net164 net164 0 0)  nfet  L=3.62E-6 W=6.59E-6
T3 ( net187 net164 0 0)  nfet  L=3.62E-6 W=6.59E-6
T4 (net149 net175 net175 0) pfet L=1.61E-6 W=5.54E-6
C5 (net152 net37) C=1.2E-9
R6 ( net186 net242)  R=4.4E5
T7 ( net242 net242 net69 0)  nfet  L=9.75E-6 W=9.02E-6
T8 ( net69 net333 0 0)  nfet  L=9.75E-6 W=9.02E-6
T9 ( net333 net333 0 0)  nfet  L=9.75E-6 W=9.02E-6
T10 ( net280 net242 net333 0)  nfet  L=9.75E-6 W=9.02E-6
T11 (net94 net276 net276 0) pfet L=4.37E-6 W=0.34E-6
T12 (0 net5 net5 0) nfet L=4.79E-6 W=0.25E-6
T13 (net241 net154 net154 0) pfet L=0.64E-6 W=6.51E-6
T14 ( net272 net272 0 0)  nfet  L=6.93E-6 W=4.36E-6
T15 ( net117 net272 0 0)  nfet  L=6.93E-6 W=4.36E-6
R16 ( net117 net222)  R=2.4E2
T17 (net37 net270 net270 0) nfet L=9.15E-6 W=0.26E-6
T18 ( net76 net76 vdd! vdd!)  pfet  L=7.92E-6 W=7.50E-6
T19 ( net217 net76 vdd! vdd!)  pfet  L=7.92E-6 W=7.50E-6
R20 ( net217 net184)  R=9.4E5
R21 (net20 vdd!) R=9.3E5
T22 (net170 0 0 0) pfet L=6.71E-6 W=3.68E-6
R23 ( net78 net122)  R=3.6E3
T24 ( net122 net255 vdd! vdd!)  pfet  L=4.44E-6 W=5.80E-6
T25 ( net57 net255 vdd! vdd!)  pfet  L=4.44E-6 W=5.80E-6
T26 ( net134 net122 net57 vdd!)  pfet  L=4.44E-6 W=5.80E-6
T27 (net84 net266 net266 0) pfet L=6.63E-6 W=5.59E-6
C28 (net305 0) C=2.1E-14
R29 ( net207 net152)  R=0.9E1
T30 ( net152 net275 0 0)  nfet  L=5.59E-6 W=2.01E-6
T31 ( net192 net275 0 0)  nfet  L=5.59E-6 W=2.01E-6
T32 ( net129 net152 net192 0)  nfet  L=5.59E-6 W=2.01E-6
C33 (net29 net125) C=4.9E-7
R34 ( net61 net323)  R=4.4E5
T35 ( net323 net85 vdd! vdd!)  pfet  L=9.84E-6 W=2.10E-6
T36 ( net26 net85 vdd! vdd!)  pfet  L=9.84E-6 W=2.10E-6
T37 ( 0 net323 net85 vdd!)  pfet  L=9.84E-6 W=2.10E-6
T38 (net205 net206 net206 0) pfet L=9.63E-6 W=6.24E-6
T39 ( net289 net289 vdd! vdd!)  pfet  L=6.63E-6 W=2.53E-6
T40 ( net227 net289 vdd! vdd!)  pfet  L=6.63E-6 W=2.53E-6
R41 ( net227 0)  R=0.3E3
T42 (net33 net109 net109 0) nfet L=2.90E-6 W=5.52E-6
T43 (net318 net132 net132 0) pfet L=5.16E-6 W=0.58E-6
T44 (net7 net191 net191 0) pfet L=3.57E-6 W=4.50E-6
R45 ( net286 net183)  R=6.8E2
T46 ( net183 net183 net232 0)  nfet  L=3.53E-6 W=5.28E-6
T47 ( net232 net239 0 0)  nfet  L=3.53E-6 W=5.28E-6
T48 ( net239 net239 0 0)  nfet  L=3.53E-6 W=5.28E-6
T49 ( net173 net183 net239 0)  nfet  L=3.53E-6 W=5.28E-6
R50 (net236 vdd!) R=8.9E6
R51 ( net58 net298)  R=6.1E4
T52 ( net298 net61 vdd! vdd!)  pfet  L=1.53E-6 W=8.48E-6
T53 ( net68 net61 vdd! vdd!)  pfet  L=1.53E-6 W=8.48E-6
T54 ( vdd! net298 net68 vdd!)  pfet  L=1.53E-6 W=8.48E-6
C55 (net78 net207) C=7.9E-13
R56 ( net198 net110)  R=8.6E1
T57 ( net110 net207 vdd! vdd!)  pfet  L=2.91E-6 W=0.26E-6
T58 ( net194 net207 vdd! vdd!)  pfet  L=2.91E-6 W=0.26E-6
T59 ( net223 net110 net194 vdd!)  pfet  L=2.91E-6 W=0.26E-6
C60 (net141 net196) C=9.6E-14
R61 ( net130 net150)  R=7.5E5
T62 ( net150 net150 net225 vdd!)  pfet  L=1.39E-6 W=2.76E-6
T63 ( net225 net214 vdd! vdd!)  pfet  L=1.39E-6 W=2.76E-6
T64 ( net214 net214 vdd! vdd!)  pfet  L=1.39E-6 W=2.76E-6
T65 ( net101 net150 net214 vdd!)  pfet  L=1.39E-6 W=2.76E-6
C66 (net236 net63) C=1.8E-8
R67 ( net287 net6)  R=2.2E6
T68 ( net6 net6 vdd! vdd!)  pfet  L=6.87E-6 W=6.15E-6
T69 ( net237 net6 vdd! vdd!)  pfet  L=6.87E-6 W=6.15E-6
T70 (net63 net60 net60 0) nfet L=8.33E-6 W=5.52E-6
R71 ( net291 net195)  R=8.5E6
T72 ( net195 net195 0 0)  nfet  L=2.04E-6 W=8.22E-6
T73 ( net293 net195 0 0)  nfet  L=2.04E-6 W=8.22E-6
T74 (net161 net213 net213 0) pfet L=8.41E-6 W=0.97E-6
T75 ( net73 net73 vdd! vdd!)  pfet  L=2.97E-6 W=9.02E-6
T76 ( net172 net73 vdd! vdd!)  pfet  L=2.97E-6 W=9.02E-6
R77 ( net172 net309)  R=5.8E3
C78 (net335 net58) C=0.1E-14
R79 (net1 net287) R=5.8E6
R80 ( net94 net203)  R=8.8E6
T81 ( net203 net161 vdd! vdd!)  pfet  L=7.92E-6 W=9.14E-6
T82 ( net319 net161 vdd! vdd!)  pfet  L=7.92E-6 W=9.14E-6
T83 ( net154 net203 net319 vdd!)  pfet  L=7.92E-6 W=9.14E-6
R84 (net114 net84) R=6.1E5
R85 ( net267 net282)  R=0.6E5
T86 ( net282 net341 0 0)  nfet  L=6.25E-6 W=1.17E-6
T87 ( net327 net341 0 0)  nfet  L=6.25E-6 W=1.17E-6
T88 ( net37 net282 net327 0)  nfet  L=6.25E-6 W=1.17E-6
R89 (net59 net296) R=5.5E3
R90 ( net81 net38)  R=5.7E5
T91 ( net38 net38 net144 vdd!)  pfet  L=2.55E-6 W=2.42E-6
T92 ( net144 net43 vdd! vdd!)  pfet  L=2.55E-6 W=2.42E-6
T93 ( net43 net43 vdd! vdd!)  pfet  L=2.55E-6 W=2.42E-6
T94 ( net197 net38 net43 vdd!)  pfet  L=2.55E-6 W=2.42E-6
T95 (net241 net245 net245 0) pfet L=3.15E-6 W=9.20E-6
R96 ( net173 net101)  R=3.9E4
T97 ( net101 net247 0 0)  nfet  L=7.80E-6 W=4.55E-6
T98 ( net139 net247 0 0)  nfet  L=7.80E-6 W=4.55E-6
T99 ( net92 net101 net139 0)  nfet  L=7.80E-6 W=4.55E-6
T100 (net92 vdd! vdd! 0) pfet L=1.64E-6 W=4.10E-6
C101 (net241 net92) C=1.8E-9
R102 ( net304 net212)  R=1.8E1
T103 ( net212 net234 vdd! vdd!)  pfet  L=1.33E-6 W=8.16E-6
T104 ( net276 net234 vdd! vdd!)  pfet  L=1.33E-6 W=8.16E-6
T105 ( vdd! net212 net276 vdd!)  pfet  L=1.33E-6 W=8.16E-6
T106 (net93 net261 net261 0) nfet L=8.89E-6 W=0.32E-6
R107 ( 0 net125)  R=1.2E1
T108 ( net125 net151 0 0)  nfet  L=0.69E-6 W=6.31E-6
T109 ( net37 net151 0 0)  nfet  L=0.69E-6 W=6.31E-6
T110 ( net285 net125 net37 0)  nfet  L=0.69E-6 W=6.31E-6
T111 (net137 net65 net65 0) nfet L=6.51E-6 W=4.44E-6
R112 ( vdd! net116)  R=2.3E6
T113 ( net116 net116 vdd! vdd!)  pfet  L=6.46E-6 W=7.67E-6
T114 ( net64 net116 vdd! vdd!)  pfet  L=6.46E-6 W=7.67E-6
R115 (net102 0) R=8.5E1
R116 ( net284 net134)  R=7.0E0
T117 ( net134 net134 net167 0)  nfet  L=2.23E-6 W=5.62E-6
T118 ( net167 net41 0 0)  nfet  L=2.23E-6 W=5.62E-6
T119 ( net41 net41 0 0)  nfet  L=2.23E-6 W=5.62E-6
T120 ( net55 net134 net41 0)  nfet  L=2.23E-6 W=5.62E-6
T121 (net210 net334 net334 0) nfet L=3.89E-6 W=3.98E-6
R122 (net233 net64) R=1.8E0
T123 (net160 net211 net211 0) nfet L=0.55E-6 W=2.07E-6
R124 ( net86 net109)  R=7.0E4
T125 ( net109 net109 0 0)  nfet  L=1.86E-6 W=5.19E-6
T126 ( net182 net109 0 0)  nfet  L=1.86E-6 W=5.19E-6
T127 (net318 net238 net238 0) nfet L=1.91E-6 W=9.17E-6
R128 ( net252 net224)  R=0.6E5
T129 ( net224 net224 vdd! vdd!)  pfet  L=7.30E-6 W=7.75E-6
T130 ( net20 net224 vdd! vdd!)  pfet  L=7.30E-6 W=7.75E-6
C131 (net263 net264) C=5.2E-9
T132 (net141 net209 net209 0) pfet L=5.06E-6 W=8.86E-6
R133 ( net196 net146)  R=1.1E4
T134 ( net146 net146 net127 0)  nfet  L=2.79E-6 W=8.76E-6
T135 ( net127 net8 0 0)  nfet  L=2.79E-6 W=8.76E-6
T136 ( net8 net8 0 0)  nfet  L=2.79E-6 W=8.76E-6
T137 ( net237 net146 net8 0)  nfet  L=2.79E-6 W=8.76E-6
T138 (vdd! 0 0 0) pfet L=5.67E-6 W=8.76E-6
R139 ( net168 net250)  R=1.3E5
T140 ( net250 net45 vdd! vdd!)  pfet  L=6.40E-6 W=8.41E-6
T141 ( 0 net45 vdd! vdd!)  pfet  L=6.40E-6 W=8.41E-6
T142 ( 0 net250 net45 vdd!)  pfet  L=6.40E-6 W=8.41E-6
R143 (net46 net252) R=4.0E5
T144 ( net170 net170 0 0)  nfet  L=1.81E-6 W=3.86E-6
T145 ( net213 net170 0 0)  nfet  L=1.81E-6 W=3.86E-6
R146 ( net213 net197)  R=3.9E2
T147 (net169 net289 net289 0) pfet L=7.58E-6 W=8.28E-6
R148 ( net286 net12)  R=8.5E5
T149 ( net12 net12 vdd! vdd!)  pfet  L=6.18E-6 W=5.87E-6
T150 ( net16 net12 vdd! vdd!)  pfet  L=6.18E-6 W=5.87E-6
C151 (net93 net337) C=5.4E-14
R152 (net98 0) R=8.5E0
R153 ( net104 net268)  R=1.4E0
T154 ( net268 net268 net121 0)  nfet  L=7.15E-6 W=5.14E-6
T155 ( net121 net26 0 0)  nfet  L=7.15E-6 W=5.14E-6
T156 ( net26 net26 0 0)  nfet  L=7.15E-6 W=5.14E-6
T157 ( net324 net268 net26 0)  nfet  L=7.15E-6 W=5.14E-6
T158 (net274 net39 net39 0) nfet L=7.41E-6 W=6.84E-6
R159 ( net32 net4)  R=0.4E6
T160 ( net4 net178 vdd! vdd!)  pfet  L=0.88E-6 W=5.65E-6
T161 ( net76 net178 vdd! vdd!)  pfet  L=0.88E-6 W=5.65E-6
T162 ( net289 net4 net76 vdd!)  pfet  L=0.88E-6 W=5.65E-6
R163 (net13 net324) R=8.9E5
T164 (net252 net58 net58 0) pfet L=1.90E-6 W=2.33E-6
T165 ( net316 net316 vdd! vdd!)  pfet  L=6.66E-6 W=9.91E-6
T166 ( net136 net316 vdd! vdd!)  pfet  L=6.66E-6 W=9.91E-6
R167 ( net136 net78)  R=8.5E5
C168 (net309 net300) C=0.6E-12
R169 ( net253 net262)  R=3.3E6
T170 ( net262 net262 vdd! vdd!)  pfet  L=9.26E-6 W=3.49E-6
T171 ( net148 net262 vdd! vdd!)  pfet  L=9.26E-6 W=3.49E-6
R172 (0 net2) R=7.6E5
R173 ( net118 net216)  R=2.8E2
T174 ( net216 net216 0 0)  nfet  L=8.23E-6 W=0.98E-6
T175 ( net60 net216 0 0)  nfet  L=8.23E-6 W=0.98E-6
T176 (net304 net18 net18 0) nfet L=8.03E-6 W=9.98E-6
R177 ( net90 net177)  R=10.0E0
T178 ( net177 net249 vdd! vdd!)  pfet  L=2.91E-6 W=4.05E-6
T179 ( net284 net249 vdd! vdd!)  pfet  L=2.91E-6 W=4.05E-6
T180 ( net237 net177 net284 vdd!)  pfet  L=2.91E-6 W=4.05E-6
C181 (net219 net205) C=1.2E-14
R182 ( net162 net336)  R=9.6E6
T183 ( net336 net336 net231 0)  nfet  L=0.56E-6 W=2.44E-6
T184 ( net231 net303 0 0)  nfet  L=0.56E-6 W=2.44E-6
T185 ( net303 net303 0 0)  nfet  L=0.56E-6 W=2.44E-6
T186 ( net292 net336 net303 0)  nfet  L=0.56E-6 W=2.44E-6
R187 (net332 net294) R=7.8E1

