R1 ( net293 net148)  R=9.1E3
T2 ( net148 net148 0 0)  nfet  L=0.11E-6 W=9.93E-6
T3 ( net250 net148 0 0)  nfet  L=0.11E-6 W=9.93E-6
R4 (net209 net240) R=9.7E2
R5 (net243 net116) R=1.9E2
R6 ( net158 net282)  R=7.4E3
T7 ( net282 net282 0 0)  nfet  L=3.39E-6 W=8.48E-6
T8 ( net270 net282 0 0)  nfet  L=3.39E-6 W=8.48E-6
C9 (vdd! net235) C=1.6E-6
R10 ( net280 net272)  R=2.8E0
T11 ( net272 net272 0 0)  nfet  L=9.97E-6 W=7.94E-6
T12 ( net94 net272 0 0)  nfet  L=9.97E-6 W=7.94E-6
T13 (net253 net95 net95 0) nfet L=4.47E-6 W=0.68E-6
R14 (net34 net158) R=0.7E5
R15 ( net61 net69)  R=9.0E3
T16 ( net69 net69 0 0)  nfet  L=5.66E-6 W=7.10E-6
T17 ( net211 net69 0 0)  nfet  L=5.66E-6 W=7.10E-6
T18 (net210 net27 net27 0) pfet L=2.42E-6 W=6.79E-6
R19 (net256 net44) R=9.2E3
R20 ( vdd! net133)  R=7.0E0
T21 ( net133 net133 vdd! vdd!)  pfet  L=5.40E-6 W=4.68E-6
T22 ( net104 net133 vdd! vdd!)  pfet  L=5.40E-6 W=4.68E-6
R23 (net105 net117) R=5.7E4
C24 (net145 0) C=8.6E-6
T25 ( net262 net262 0 0)  nfet  L=5.82E-6 W=5.98E-6
T26 ( net213 net262 0 0)  nfet  L=5.82E-6 W=5.98E-6
R27 ( net213 net316)  R=8.5E2
R28 (net255 net251) R=7.1E5
T29 (net308 net26 net26 0) nfet L=6.26E-6 W=2.06E-6
T30 (0 net45 net45 0) pfet L=3.76E-6 W=3.61E-6
T31 (net112 net243 net243 0) pfet L=5.53E-6 W=8.56E-6
C32 (net187 net33) C=5.5E-7
T33 (net2 net261 net261 0) pfet L=0.81E-6 W=8.43E-6
C34 (net295 net239) C=5.7E-7
C35 (net153 net38) C=5.4E-8
C36 (net22 net138) C=8.7E-14
T37 ( net8 net8 0 0)  nfet  L=6.02E-6 W=0.80E-6
T38 ( net97 net8 0 0)  nfet  L=6.02E-6 W=0.80E-6
R39 ( net97 net87)  R=6.6E2
R40 (net61 net257) R=8.8E3
C41 (net178 net32) C=8.6E-6
T42 (net138 net201 net201 0) nfet L=3.23E-6 W=8.61E-6
R43 ( vdd! net226)  R=5.0E2
T44 ( net226 net137 0 0)  nfet  L=4.18E-6 W=5.52E-6
T45 ( net228 net137 0 0)  nfet  L=4.18E-6 W=5.52E-6
T46 ( vdd! net226 net137 0)  nfet  L=4.18E-6 W=5.52E-6
T47 (net34 net205 net205 0) nfet L=6.09E-6 W=4.18E-6
T48 ( net251 net251 vdd! vdd!)  pfet  L=0.49E-6 W=5.78E-6
T49 ( net253 net251 vdd! vdd!)  pfet  L=0.49E-6 W=5.78E-6
R50 ( net253 net94)  R=2.0E1
C51 (net95 net41) C=8.0E-14
R52 (net172 net64) R=1.1E5
T53 ( net169 net169 0 0)  nfet  L=2.68E-6 W=7.01E-6
T54 ( net91 net169 0 0)  nfet  L=2.68E-6 W=7.01E-6
R55 ( net91 net228)  R=2.2E0
T56 (net177 net187 net187 0) pfet L=1.32E-6 W=9.80E-6
R57 ( net267 net203)  R=6.1E6
T58 ( net203 net203 0 0)  nfet  L=8.26E-6 W=1.42E-6
T59 ( net111 net203 0 0)  nfet  L=8.26E-6 W=1.42E-6
R60 (net115 net80) R=3.7E3
T61 ( vdd! vdd! vdd! vdd!)  pfet  L=2.96E-6 W=8.08E-6
T62 ( net271 vdd! vdd! vdd!)  pfet  L=2.96E-6 W=8.08E-6
R63 ( net271 net327)  R=2.4E1
R64 (net283 net94) R=9.7E5
T65 (net35 net174 net174 0) pfet L=7.61E-6 W=3.46E-6
R66 (0 net42) R=5.9E5
R67 ( net198 net184)  R=7.6E3
T68 ( net184 net260 0 0)  nfet  L=7.83E-6 W=0.93E-6
T69 ( net274 net260 0 0)  nfet  L=7.83E-6 W=0.93E-6
T70 ( vdd! net184 net260 0)  nfet  L=7.83E-6 W=0.93E-6
C71 (0 vdd!) C=2.3E-12
T72 ( 0 0 0 0)  nfet  L=5.96E-6 W=7.81E-6
T73 ( net179 0 0 0)  nfet  L=5.96E-6 W=7.81E-6
R74 ( net179 net9)  R=4.9E1
C75 (0 net18) C=5.5E-13
T76 ( 0 0 vdd! vdd!)  pfet  L=3.79E-6 W=6.58E-6
T77 ( net143 0 vdd! vdd!)  pfet  L=3.79E-6 W=6.58E-6
R78 ( net143 vdd!)  R=0.8E6
T79 (net185 net277 net277 0) nfet L=0.54E-6 W=6.81E-6
R80 ( net36 net246)  R=6.1E5
T81 ( net246 net180 vdd! vdd!)  pfet  L=3.47E-6 W=6.07E-6
T82 ( net189 net180 vdd! vdd!)  pfet  L=3.47E-6 W=6.07E-6
T83 ( net278 net246 net189 vdd!)  pfet  L=3.47E-6 W=6.07E-6
C84 (net21 net280) C=3.4E-14
R85 ( net25 net110)  R=6.0E6
T86 ( net110 net301 0 0)  nfet  L=7.89E-6 W=6.69E-6
T87 ( net4 net301 0 0)  nfet  L=7.89E-6 W=6.69E-6
T88 ( net147 net110 net4 0)  nfet  L=7.89E-6 W=6.69E-6
T89 (net255 net238 net238 0) nfet L=8.68E-6 W=7.54E-6
T90 (net233 net279 net279 0) pfet L=0.56E-6 W=5.34E-6
R91 ( net268 net256)  R=2.9E2
T92 ( net256 net256 vdd! vdd!)  pfet  L=0.72E-6 W=6.57E-6
T93 ( net186 net256 vdd! vdd!)  pfet  L=0.72E-6 W=6.57E-6
R94 (net237 net113) R=1.2E3
R95 (net154 net207) R=2.4E6
T96 (net217 net87 net87 0) pfet L=2.78E-6 W=8.21E-6
R97 ( net261 net312)  R=3.0E6
T98 ( net312 net58 0 0)  nfet  L=3.87E-6 W=6.84E-6
T99 ( net160 net58 0 0)  nfet  L=3.87E-6 W=6.84E-6
T100 ( vdd! net312 net58 0)  nfet  L=3.87E-6 W=6.84E-6
R101 (net146 net136) R=9.2E4
R102 ( net279 net222)  R=6.4E5
T103 ( net222 net222 vdd! vdd!)  pfet  L=0.33E-6 W=1.63E-6
T104 ( net118 net222 vdd! vdd!)  pfet  L=0.33E-6 W=1.63E-6
C105 (net297 net317) C=9.4E-12
T106 (0 net64 net64 0) pfet L=3.89E-6 W=3.33E-6
R107 ( net200 net210)  R=7.7E4
T108 ( net210 net5 0 0)  nfet  L=3.10E-6 W=2.59E-6
T109 ( net215 net5 0 0)  nfet  L=3.10E-6 W=2.59E-6
T110 ( vdd! net210 net5 0)  nfet  L=3.10E-6 W=2.59E-6
T111 (net90 net311 net311 0) nfet L=0.18E-6 W=9.33E-6
R112 ( net315 net280)  R=9.9E1
T113 ( net280 net88 vdd! vdd!)  pfet  L=4.04E-6 W=3.11E-6
T114 ( 0 net88 vdd! vdd!)  pfet  L=4.04E-6 W=3.11E-6
T115 ( 0 net280 net88 vdd!)  pfet  L=4.04E-6 W=3.11E-6
T116 (0 net190 net190 0) nfet L=6.46E-6 W=8.96E-6
T117 (net32 net28 net28 0) pfet L=6.77E-6 W=9.70E-6
R118 ( net290 net16)  R=9.3E1
T119 ( net16 net94 vdd! vdd!)  pfet  L=0.52E-6 W=2.26E-6
T120 ( net72 net94 vdd! vdd!)  pfet  L=0.52E-6 W=2.26E-6
T121 ( net120 net16 net72 vdd!)  pfet  L=0.52E-6 W=2.26E-6
R122 (net281 net255) R=2.2E4
T123 (net283 net230 net230 0) nfet L=0.52E-6 W=3.72E-6
T124 (net295 net169 net169 0) nfet L=9.78E-6 W=2.54E-6
C125 (net104 net158) C=9.0E-12
T126 (net155 net123 net123 0) pfet L=8.22E-6 W=1.30E-6
R127 ( net302 net291)  R=6.7E4
T128 ( net291 net152 vdd! vdd!)  pfet  L=8.39E-6 W=4.27E-6
T129 ( net18 net152 vdd! vdd!)  pfet  L=8.39E-6 W=4.27E-6
T130 ( 0 net291 net152 vdd!)  pfet  L=8.39E-6 W=4.27E-6
C131 (net323 net98) C=3.2E-8
C132 (net107 net83) C=9.0E-6
R133 ( net182 net144)  R=3.0E4
T134 ( net144 net211 0 0)  nfet  L=2.32E-6 W=7.36E-6
T135 ( net136 net211 0 0)  nfet  L=2.32E-6 W=7.36E-6
T136 ( net290 net144 net136 0)  nfet  L=2.32E-6 W=7.36E-6
T137 (net85 net103 net103 0) nfet L=2.97E-6 W=6.87E-6
R138 ( net28 net275)  R=1.6E4
T139 ( net275 net44 vdd! vdd!)  pfet  L=9.94E-6 W=9.54E-6
T140 ( net10 net44 vdd! vdd!)  pfet  L=9.94E-6 W=9.54E-6
T141 ( net235 net275 net10 vdd!)  pfet  L=9.94E-6 W=9.54E-6
T142 (net307 net270 net270 0) nfet L=2.83E-6 W=2.48E-6
R143 (net151 net227) R=1.9E2
T144 (net321 net252 net252 0) nfet L=1.47E-6 W=1.22E-6
C145 (net77 net283) C=5.6E-11
C146 (net318 net45) C=5.0E-5
R147 ( net34 net262)  R=0.5E2
T148 ( net262 net262 vdd! vdd!)  pfet  L=0.28E-6 W=6.11E-6
T149 ( net3 net262 vdd! vdd!)  pfet  L=0.28E-6 W=6.11E-6
T150 (net201 net297 net297 0) nfet L=9.63E-6 W=9.94E-6
T151 (net68 net109 net109 0) nfet L=2.67E-6 W=5.93E-6
T152 (net197 net170 net170 0) pfet L=6.76E-6 W=5.29E-6
R153 ( net236 net126)  R=9.0E5
T154 ( net126 net126 0 0)  nfet  L=5.10E-6 W=3.49E-6
T155 ( net247 net126 0 0)  nfet  L=5.10E-6 W=3.49E-6
C156 (net317 net62) C=3.5E-14
R157 ( net145 net186)  R=7.8E0
T158 ( net186 net281 vdd! vdd!)  pfet  L=7.16E-6 W=5.75E-6
T159 ( net135 net281 vdd! vdd!)  pfet  L=7.16E-6 W=5.75E-6
T160 ( 0 net186 net281 vdd!)  pfet  L=7.16E-6 W=5.75E-6
T161 (net195 net167 net167 0) nfet L=6.50E-6 W=5.86E-6
R162 ( net103 net204)  R=3.9E6
T163 ( net204 net204 vdd! vdd!)  pfet  L=2.73E-6 W=9.91E-6
T164 ( 0 net204 vdd! vdd!)  pfet  L=2.73E-6 W=9.91E-6
T165 (net329 net171 net171 0) pfet L=8.56E-6 W=4.69E-6
T166 (net303 net313 net313 0) pfet L=5.00E-6 W=0.71E-6
R167 (net87 net57) R=5.4E3
R168 ( net39 net14)  R=7.6E1
T169 ( net14 net14 vdd! vdd!)  pfet  L=1.07E-6 W=8.21E-6
T170 ( net221 net14 vdd! vdd!)  pfet  L=1.07E-6 W=8.21E-6
T171 (net238 net219 net219 0) nfet L=8.99E-6 W=6.60E-6
R172 (net166 net292) R=8.1E3
C173 (vdd! net294) C=3.2E-9
R174 ( net18 net45)  R=7.3E5
T175 ( net45 net149 vdd! vdd!)  pfet  L=2.62E-6 W=3.50E-6
T176 ( vdd! net149 vdd! vdd!)  pfet  L=2.62E-6 W=3.50E-6
T177 ( 0 net45 net149 vdd!)  pfet  L=2.62E-6 W=3.50E-6
T178 (net198 net102 net102 0) pfet L=0.22E-6 W=0.17E-6
C179 (net290 net100) C=8.5E-13
R180 ( 0 net68)  R=0.3E2
T181 ( net68 net62 vdd! vdd!)  pfet  L=9.86E-6 W=8.39E-6
T182 ( net54 net62 vdd! vdd!)  pfet  L=9.86E-6 W=8.39E-6
T183 ( 0 net68 net62 vdd!)  pfet  L=9.86E-6 W=8.39E-6
T184 (net131 net123 net123 0) nfet L=8.59E-6 W=2.74E-6
C185 (net71 net174) C=5.7E-8
C186 (net21 net93) C=6.2E-12
R187 ( net250 net142)  R=1.9E0
T188 ( net142 net142 vdd! vdd!)  pfet  L=7.39E-6 W=8.72E-6
T189 ( net269 net142 vdd! vdd!)  pfet  L=7.39E-6 W=8.72E-6
C190 (net165 net251) C=3.0E-14
R191 (vdd! net193) R=0.5E6
R192 ( net162 net154)  R=5.2E2
T193 ( net154 net154 0 0)  nfet  L=6.81E-6 W=2.60E-6
T194 ( net39 net154 0 0)  nfet  L=6.81E-6 W=2.60E-6
T195 (net178 net298 net298 0) pfet L=7.13E-6 W=3.17E-6
T196 (net28 net106 net106 0) pfet L=3.37E-6 W=1.73E-6
C197 (net18 net283) C=3.6E-11
R198 ( net284 net298)  R=9.0E2
T199 ( net298 net232 vdd! vdd!)  pfet  L=9.25E-6 W=3.13E-6
T200 ( net49 net232 vdd! vdd!)  pfet  L=9.25E-6 W=3.13E-6
T201 ( 0 net298 net232 vdd!)  pfet  L=9.25E-6 W=3.13E-6
R202 (net329 net132) R=1.6E4
T203 (net76 vdd! vdd! 0) pfet L=0.69E-6 W=4.63E-6
R204 (net299 net168) R=7.5E2
R205 ( net218 net140)  R=2.7E2
T206 ( net140 net198 0 0)  nfet  L=4.30E-6 W=7.68E-6
T207 ( net118 net198 0 0)  nfet  L=4.30E-6 W=7.68E-6
T208 ( vdd! net140 net198 0)  nfet  L=4.30E-6 W=7.68E-6
C209 (net120 net50) C=4.6E-6
R210 ( net243 net321)  R=7.9E4
T211 ( net321 net321 net296 vdd!)  pfet  L=9.85E-6 W=8.50E-6
T212 ( net296 net21 vdd! vdd!)  pfet  L=9.85E-6 W=8.50E-6
T213 ( net21 net21 vdd! vdd!)  pfet  L=9.85E-6 W=8.50E-6
T214 ( net37 net321 net21 vdd!)  pfet  L=9.85E-6 W=8.50E-6
T215 (net285 net127 net127 0) nfet L=3.98E-6 W=5.69E-6
R216 ( vdd! net107)  R=9.9E4
T217 ( net107 net270 0 0)  nfet  L=8.71E-6 W=5.78E-6
T218 ( net65 net270 0 0)  nfet  L=8.71E-6 W=5.78E-6
T219 ( net8 net107 net65 0)  nfet  L=8.71E-6 W=5.78E-6
R220 (net276 net252) R=9.2E2
R221 ( 0 net24)  R=3.9E2
T222 ( net24 net238 vdd! vdd!)  pfet  L=4.82E-6 W=4.58E-6
T223 ( net9 net238 vdd! vdd!)  pfet  L=4.82E-6 W=4.58E-6
T224 ( net71 net24 net9 vdd!)  pfet  L=4.82E-6 W=4.58E-6
T225 (net216 net200 net200 0) pfet L=2.39E-6 W=3.85E-6
C226 (net2 net173) C=2.1E-6
R227 ( net308 net255)  R=3.7E5
T228 ( net255 net255 net214 0)  nfet  L=1.09E-6 W=2.76E-6
T229 ( net214 net2 0 0)  nfet  L=1.09E-6 W=2.76E-6
T230 ( net2 net2 0 0)  nfet  L=1.09E-6 W=2.76E-6
T231 ( net81 net255 net2 0)  nfet  L=1.09E-6 W=2.76E-6
R232 (net216 net320) R=3.2E2
T233 ( net3 net3 0 0)  nfet  L=2.04E-6 W=3.53E-6
T234 ( net233 net3 0 0)  nfet  L=2.04E-6 W=3.53E-6
R235 ( net233 net87)  R=0.9E2
R236 (net3 net67) R=8.5E1
R237 ( net240 net221)  R=5.0E4
T238 ( net221 net51 0 0)  nfet  L=2.43E-6 W=7.04E-6
T239 ( net31 net51 0 0)  nfet  L=2.43E-6 W=7.04E-6
T240 ( net247 net221 net31 0)  nfet  L=2.43E-6 W=7.04E-6
T241 (net303 net185 net185 0) nfet L=1.67E-6 W=2.86E-6
R242 ( net47 net127)  R=5.4E6
T243 ( net127 net127 vdd! vdd!)  pfet  L=2.92E-6 W=1.49E-6
T244 ( net167 net127 vdd! vdd!)  pfet  L=2.92E-6 W=1.49E-6
R245 (net196 net168) R=1.4E1
C246 (net66 vdd!) C=9.1E-13
T247 (net33 net245 net245 0) nfet L=8.46E-6 W=8.93E-6
T248 (net199 net1 net1 0) nfet L=9.31E-6 W=8.95E-6
T249 ( net217 net217 vdd! vdd!)  pfet  L=3.48E-6 W=3.07E-6
T250 ( net35 net217 vdd! vdd!)  pfet  L=3.48E-6 W=3.07E-6
R251 ( net35 net113)  R=1.8E4
C252 (net240 net247) C=2.4E-10
T253 (net242 net164 net164 0) pfet L=4.61E-6 W=9.02E-6
R254 ( net259 net38)  R=7.0E2
T255 ( net38 net38 vdd! vdd!)  pfet  L=5.61E-6 W=1.52E-6
T256 ( net124 net38 vdd! vdd!)  pfet  L=5.61E-6 W=1.52E-6
T257 (net218 net151 net151 0) pfet L=4.85E-6 W=6.93E-6
C258 (net101 net20) C=2.6E-14
R259 (net135 net54) R=7.1E5
R260 ( net318 net218)  R=8.8E4
T261 ( net218 net218 net243 vdd!)  pfet  L=1.33E-6 W=8.95E-6
T262 ( net243 net283 vdd! vdd!)  pfet  L=1.33E-6 W=8.95E-6
T263 ( net283 net283 vdd! vdd!)  pfet  L=1.33E-6 W=8.95E-6
T264 ( net103 net218 net283 vdd!)  pfet  L=1.33E-6 W=8.95E-6
T265 (net99 net56 net56 0) nfet L=6.76E-6 W=2.70E-6
T266 ( net166 net166 vdd! vdd!)  pfet  L=1.47E-6 W=2.04E-6
T267 ( net307 net166 vdd! vdd!)  pfet  L=1.47E-6 W=2.04E-6
R268 ( net307 vdd!)  R=3.1E1
T269 (0 net279 net279 0) pfet L=6.83E-6 W=3.93E-6
T270 (net268 0 0 0) pfet L=9.61E-6 W=2.29E-6
R271 ( net230 net315)  R=3.3E6
T272 ( net315 net315 0 0)  nfet  L=9.74E-6 W=7.53E-6
T273 ( net259 net315 0 0)  nfet  L=9.74E-6 W=7.53E-6
T274 (net96 net223 net223 0) nfet L=3.23E-6 W=1.08E-6
R275 ( net215 net295)  R=7.5E6
T276 ( net295 net295 vdd! vdd!)  pfet  L=6.53E-6 W=1.33E-6
T277 ( net134 net295 vdd! vdd!)  pfet  L=6.53E-6 W=1.33E-6
T278 (net304 net119 net119 0) pfet L=5.47E-6 W=9.93E-6
T279 (net173 net120 net120 0) nfet L=3.31E-6 W=1.25E-6
T280 (net131 net25 net25 0) nfet L=6.69E-6 W=5.94E-6
R281 (net217 net85) R=7.9E5
C282 (net225 net239) C=9.1E-11
T283 (net195 net18 net18 0) pfet L=2.27E-6 W=4.78E-6
C284 (net263 net205) C=7.4E-14
C285 (0 net309) C=0.2E-7
T286 (net150 net192 net192 0) nfet L=0.20E-6 W=6.03E-6
T287 (net8 net56 net56 0) nfet L=5.41E-6 W=3.68E-6
C288 (net326 net153) C=2.3E-8
C289 (net276 net324) C=8.6E-11
R290 (net89 net178) R=6.4E4
R291 (net174 net13) R=7.3E4
T292 (net225 net191 net191 0) nfet L=9.43E-6 W=7.91E-6
C293 (net230 net60) C=4.1E-5
C294 (net326 net247) C=4.6E-10
T295 (net56 net122 net122 0) nfet L=6.24E-6 W=8.86E-6
C296 (net54 net158) C=5.8E-11
T297 (0 net63 net63 0) nfet L=9.66E-6 W=6.95E-6
T298 (net28 net178 net178 0) pfet L=2.01E-6 W=6.46E-6
C299 (net287 net50) C=7.8E-13
T300 (net196 net75 net75 0) pfet L=2.14E-6 W=1.79E-6
R301 (net86 net162) R=4.9E6
T302 (net113 net157 net157 0) pfet L=4.42E-6 W=0.13E-6
T303 (net134 net181 net181 0) pfet L=6.36E-6 W=9.30E-6
C304 (net212 net52) C=9.2E-6
R305 (net326 0) R=1.9E2
C306 (net323 net30) C=9.8E-8
T307 (0 net93 net93 0) nfet L=0.70E-6 W=2.98E-6
T308 (net176 net187 net187 0) pfet L=2.90E-6 W=0.87E-6
C309 (net108 net131) C=3.7E-7
T310 (net300 net178 net178 0) pfet L=4.60E-6 W=1.68E-6
T311 (net78 net121 net121 0) nfet L=6.44E-6 W=0.87E-6
T312 (vdd! net7 net7 0) pfet L=3.16E-6 W=4.43E-6
C313 (net49 net151) C=7.2E-14
T314 (net268 net113 net113 0) nfet L=4.02E-6 W=0.91E-6
T315 (net293 net216 net216 0) nfet L=1.04E-6 W=2.53E-6
T316 (net158 net327 net327 0) pfet L=1.36E-6 W=4.74E-6
T317 (net175 net29 net29 0) pfet L=2.50E-6 W=7.22E-6
C318 (0 net109) C=6.3E-9

